US06066638
Step A: Preparation of 2,3-dihydro-3-propyl-2-thioxothieno[3,2-d]pyrimidin-4(1H)-one
To a suspension of 150 mL of ethanol containing 9.5 g of methyl 3-amino-2-thiophenecarboxylate was added dropwise 9.3 mL of n-propyl isothiocyanate with stirring. To this reaction mixture was added 12.64 mL of triethylamine. The reaction mixture was heated at reflux for 3 h, allowed to cool to room temperature and then stirred for approximately 24 h. The mixture was then heated at reflux for an additional 32 h, cooled to approximately 5° C. and filtered to obtain 5.5 g of the title compound of Step A as an off-white solid melting at 246-249° C.

reactant | ethanol | 150 mL, 9.5 g | C(C)O | C2H6O
reactant | methyl 3-amino-2-thiophenecarboxylate | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | n-propyl isothiocyanate | 9.3 mL | C(CC)N=C=S | C4H7NS
solvent | triethylamine | 12.64 mL | C(C)N(CC)CC | C6H15N
product | 2,3-dihydro-3-propyl-2-thioxothieno[3,2-d]pyrimidin-4(1H)-one | 5.5 g | C(CC)N1C(NC2=C(C1=O)SC=C2)=S | C9H10N2OS2
